US07560558B2
Compound 35: 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methylphenyl}-1-ethanone
4-Chloro-6,7-dimethoxyquinoline (220 mg) and 2-acetyl-4-methylphenol (300 mg) were suspended in o-dichlorobenzene (2 ml), and the suspension was stirred at 170° C. for 6 days. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (12 mg, yield 4%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 220 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-acetyl-4-methylphenol | 300 mg | C(C)(=O)C1=C(C=CC(=C1)C)O | C9H10O2
reactant | water | O | H2O
solvent | o-dichlorobenzene | 2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methylphenyl}-1-ethanone | 12 mg, yield 4% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)C(C)=O | C20H19NO4
